US04818819
A mixture containing 1.31 g of tert.-butyl 4-bromobenzoate, 1.0 g of trimethylsilylacetylene, 10 mg of palladium acetate and 15.6 mg of triphenylphosphine in 15 ml of anhydrous triethylamine is heated in a sealed container at 100° C. for 16 hours. After cooling to room temperature, the reaction mixture is diluted with methylene chloride and extracted with water. The organic solution is dried over anhydrous sodium sulfate and the solvent removed under reduced pressure. The dark residue is chromatographed as a column of flash silica gel using a 10% ethyl acetate-hexanes mixture as the eluent to give tert.-butyl 4-(trimethylsilylethynylbenzoate as a dark oil: NMR (CDCl3, 300 MHz) delta 0.26 (s, 9H), 1.59 (s, 9H), 7.49 (d, 2H, J=8.23 Hz), 7.91 (d, 2H, J8.23 Hz). This is dissolved in 20 ml of anhydrous methanol, and then treated with 0.1 g of anhydrous potassium carbonate. The mixture is allowed to stir at room temperature under nitrogen for 3 hours. The reaction mixture is diluted with methylene chloride, extracted with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is distilled under reduced pressure (60°-70° C./0.1 mm to give 0.75 g (73% over 2 steps) of tert.-butyl 4-ethynylbenzoate as a white solid: m.p. 71.5°-72° C.; NMR (CDCl3, 80 MHz) delta 1.62 (s, 9H), 3.23 (s, 1H), 7.55 (d, 2H, J=8.11 Hz), 7.96 (d, 2H, J=8.11 Hz); IR (KBr) 3240, 2970, 2100, 1700, 1600, 1450, 1365, 1300, 1250, 1160, 1115, 1015, 845 and 765 cm-1 ; M/S 202 M+), 187, 157, 146, 129, 101, 75 and 57.

reactant | tert.-butyl 4-bromobenzoate | 1.31 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | trimethylsilylacetylene | 1.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | triphenylphosphine | 15.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trimethylsilylethynylbenzoate | C[Si](C)(C)C#COC(C1=CC=CC=C1)=O | C12H14O2Si
